US06818772B2
cis-3,5-difluoro-N-(4-{(6-fluoro-2-(trifluoromethyl)quinolin-4-yl)amino}cyclohexyl)benzamide
A solution of N-(4-Amino-cyclohexyl)-3,5-difluorobenzamide (30 mg, 0.12 mmol) in NMP (1.0 mL) was treated with 4-chloro-6-fluoro-2-trifluoromethyl-quinoline (1 eq) and 3 eq (0.045 mL) TEA. The reaction was heated to 220 C in the microwave for 15 minutes. The crude compound was purified by reverse phase HPLC to provide the desired compound. MS (ESI (+)) m/e 468 (M+H)+; 1H NMR (500 MHz, DMSO) δ ppm 8.32 (m, 2 H), 7.98 (m, 1 H), 7.67 (m, 1 H), 7.58 (m, 2 H), 7.44 (m, 1 H), 7.15 (d, 1 H), 6.82 (s, 1 H), 1.95 (m, 4 H), 1.65-1.88 (m, 4 H).

reactant | N-(4-Amino-cyclohexyl)-3,5-difluorobenzamide | 0.12 mmol, 30 mg | NC1CCC(CC1)NC(C1=CC(=CC(=C1)F)F)=O | C13H16F2N2O
reactant | 4-chloro-6-fluoro-2-trifluoromethyl-quinoline | 1 eq | ClC1=CC(=NC2=CC=C(C=C12)F)C(F)(F)F | C10H4ClF4N
solvent | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
product | cis-3,5-difluoro-N-(4-{(6-fluoro-2-(trifluoromethyl)quinolin-4-yl)amino}cyclohexyl)benzamide | FC=1C=C(C(=O)N[C@@H]2CC[C@@H](CC2)NC2=CC(=NC3=CC=C(C=C23)F)C(F)(F)F)C=C(C1)F | C23H19F6N3O
